US07902282B2
1 g (3.40 mmol) of 4-phenyl-[1,3]dithiol-2-one derivative and 1.11 g (5.09 mmol) of diphenyldisulfide were used and 4-phenyl-5-phenylthio-[1,3]dithiol-2-one derivative was quantitatively obtained according to Instance 7.

reactant | 4-phenyl-[1,3]dithiol-2-one | 3.40 mmol, 1 g | C1(=CC=CC=C1)C=1SC(SC1)=O | C9H6OS2
reactant | diphenyldisulfide | 5.09 mmol, 1.11 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
product | 4-phenyl-5-phenylthio-[1,3]dithiol-2-one | C1(=CC=CC=C1)C=1SC(SC1SC1=CC=CC=C1)=O | C15H10OS3
